US07176242B2
To a refluxing solution of 7-bromo-1-chloroisoquinoline (4.85 g, 23.28 mmol) in diethyl ether (75 mL) was added butylmagnesium chloride (17.8 mL, 2.0 M ether, 35.6 mmol) and the reaction maintained at reflux for 2 h. The reaction mixture was cooled to room temperature, carefully diluted with an equal volume of ethyl acetate, washed with saturated sodium bicarbonate, water, and saturated sodium chloride, dried (sodium sulfate), filtered, and concentrated under reduced pressure to give an brown oil. Purification by flash column chromatography (silica, 1–10% ether/hexanes) gave the desired 7-bromo-1-butylisoquinoline (1.50 g): ESI MS m/z 264 [M+H]+.

reactant | 7-bromo-1-chloroisoquinoline | 23.28 mmol, 4.85 g | BrC1=CC=C2C=CN=C(C2=C1)Cl | C9H5BrClN
reactant | butylmagnesium chloride | 35.6 mmol, 2.0 M, 17.8 mL | C(CCC)[Mg]Cl
solvent | diethyl ether | 75 mL | C(C)OCC | C4H10O
solvent | ethyl acetate | C(C)(=O)OCC | C4H8O2
product | 7-bromo-1-butylisoquinoline | 1.50 g | BrC1=CC=C2C=CN=C(C2=C1)CCCC | C13H14BrN
